US06777421B2
1-phenyl-8-[[2-(2-thiazolyl)phenyl]methyl]-1,3,8-triazaspiro[4.5]decan-4-one (Compound #24)
To a mixture of 2-(2-thiazolyl)benzaldehyde (200 mg, 1.06 mmol) and 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (0.232 mg, 1.00 mmol) in 1,2-dichloroethane (20 mL) was added sodium triacetoxyborohydride (376 mg, 1.79 mmol). The resultant mixture was stirred at room temperature for 18 h, quenched with aqueous NaHCO3 (50 mL) and extracted with CHCl3 (2×50 mL). The organic solution was dried over Na2SO4, filtered and concentrated. The crude product was dissolved in 1:1 CHCl3:CH3OH (30 mL) and treated with 2 mL of 1 N HCl in Et2O. The HCl salt was precipitated by addition of Et2O, collected by filtration and dried in the vacuum oven at 60° C. for 18 h to yield the product as an amorphous solid.

reactant | 2-(2-thiazolyl)benzaldehyde | 1.06 mmol, 200 mg | S1C(=NC=C1)C1=C(C=O)C=CC=C1 | C10H7NOS
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 1.00 mmol, 0.232 mg | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | sodium triacetoxyborohydride | 1.79 mmol, 376 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 1-phenyl-8-[[2-(2-thiazolyl)phenyl]methyl]-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2=C(C=CC=C2)C=2SC=CN2)=O | C23H24N4OS
